US06451821B1
The process is performed as in Example 3, starting with 17.6 g of tert-butyl (1S)-1-benzyl-2-hydroxypropylcarbamate in 145 cm3 of dioxane and 61 cm3 of 6.5N hydrochloric dioxane, stirring for 16 hours at a temperature in the region of 20° C. After an identical work-up, 9.56 g of (3S)-3-amino-4-phenyl-2-butanol are obtained in the form of an orange-colored oil as a mixture of the two diastereoisomers (80/20). (Rf=0.25 in a 40/5/0.5 by volume mixture of dichloromethane/methanol/aqueous ammonia, on a Merck 60F254R silica plate).

reactant | tert-butyl (1S)-1-benzyl-2-hydroxypropylcarbamate | 17.6 g | C(C1=CC=CC=C1)[C@@H](C(C)O)NC(OC(C)(C)C)=O | C15H23NO3
solvent | dioxane | 145 cm3 | O1CCOCC1 | C4H8O2
solvent | dioxane | 6.5N, 61 cm3 | O1CCOCC1 | C4H8O2
product | (3S)-3-amino-4-phenyl-2-butanol | 9.56 g | N[C@H](C(C)O)CC1=CC=CC=C1 | C10H15NO
